US08685977B2
4-Chloro-2-ethylphenol
To a solution of 4-chloro-2-ethyl-1-methoxybenzene (Preparation 5, 7.0 g, 41.0 mmol) in dichloromethane (20 mL) at 0° C. was added a 1M solution of boron tribromide in dichloromethane (20.5 mL, 20.5 mmol). After 2 hours, further boron tribromide solution (20 mL, 20.0 mmol) was added. After a further 2 hours, methanol was added and the reaction mixture concentrated in vacuo. The residue was purified by silica gel column chromatography (5%-40% ethyl acetate in heptane) to afford the title compound (3.7 g, 58%).

reactant | 4-chloro-2-ethyl-1-methoxybenzene | 41.0 mmol, 7.0 g | ClC1=CC(=C(C=C1)OC)CC | C9H11ClO
reactant | boron tribromide | B(Br)(Br)Br | BBr3
reactant | boron tribromide | 20.0 mmol, 20 mL | B(Br)(Br)Br | BBr3
reactant | methanol | CO | CH4O
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 20.5 mmol, 20.5 mL | ClCCl | CH2Cl2
product | 4-Chloro-2-ethylphenol | 3.7 g, 58% | ClC1=CC(=C(C=C1)O)CC | C8H9ClO
